### PR TITLE
chore: bump to v20.0-rc5

### PR DESCRIPTION
**Pull request by pitmonticone**

### CODE REVIEW

File: equational_theories/Equations/Command.lean [hunk 1]
```diff
@@ -92,8 +92,12 @@ elab mods:declModifiers tk:"equation " i:num " := " tsyn:term : command => Comma
...
   let docs := s!"```\nequation {i.getNat} := {← PrettyPrinter.formatTerm tsyn}\n```"
   let docs := match declMods.docString? with
-    | none => docs
-    | some more => s!"{docs}\n\n---\n{more}"
+    | none =>
+      -- docs -- [ERROR]
+      sorry
+    | some more =>
+      -- s!"{docs}\n\n---\n{more}" -- [ERROR]
+      sorry
```
Comment (pitmonticone) [inline equational_theories/Equations/Command.lean:100]: @digama0 Any suggestions?

File: equational_theories/Counting.lean [hunk 2]
```diff
@@ -71,7 +71,8 @@ theorem elementsOfNumNodesEq_card_eq_catalan_mul_pow (n : ℕ) :
       ih _ (Finset.antidiagonal.snd_le h)]
     rw [← Finset.mem_antidiagonal.1 h]
     ring
-  · simp_rw [Finset.disjoint_left]
+  · stop
+    simp_rw [Finset.disjoint_left] -- [ERROR]: simp made no progress
```
Comment (pitmonticone) [inline equational_theories/Counting.lean:75]: @Command-Master Any suggestions?

File: equational_theories/ForMathlib/Definability.lean [hunk 3]
```diff
@@ -409,7 +409,8 @@ theorem subst_definitions_eq {k : ℕ} (f : L.BoundedFormula α k)
           intro i hi
           simp at hi
           rcases hi with ⟨w,hiw,hiw₂⟩
-          rw [List.mem_ofFn] at hiw
+          stop
+          rw [List.mem_ofFn] at hiw -- [ERROR]
```
Comment (pitmonticone) [inline equational_theories/ForMathlib/Definability.lean:413]: @Timeroot Any suggestions?

**Comment by dwrensha** [comment]
extract_implications.lean will need an update like this:
```diff
diff --git a/scripts/extract_implications.lean b/scripts/extract_implications.lean
index 0b58cf19..b4e2f303 100644
--- a/scripts/extract_implications.lean
+++ b/scripts/extract_implications.lean
@@ -13,15 +13,15 @@ def withExtractedResults (imp : Cli.Parsed) (action : Array Entry → DualityRel
     return 1
   if modules.isEmpty then
     modules := #[`equational_theories]
-  searchPathRef.set compile_time_search_path%
-
-  unsafe withImportModules (modules.map ({module := ·})) {} (trustLevel := 1024) fun env =>
-    let ctx := {fileName := "", fileMap := default}
-    let state := {env}
-    Prod.fst <$> (Meta.MetaM.toIO · ctx state) do
-      let rs ← Result.extractEquationalResults
-      action rs dualityRelation
-      pure 0
+  initSearchPath (← findSysroot)
+
+  let env ← importModules (modules.map ({module := ·})) {} (trustLevel := 1024) (loadExts := true)
+  let ctx := {fileName := "", fileMap := default}
+  let state := {env}
+  Prod.fst <$> (Meta.MetaM.toIO · ctx state) do
+    let rs ← Result.extractEquationalResults
+    action rs dualityRelation
+    pure 0
 
 def matchFinite (rs : Array Entry) (finite : Bool) : Array Entry :=
   if finite then
```

**Comment by pitmonticone** [comment]
Thanks @dwrensha!

File: equational_theories/Equations/LawsComplete.lean
Comment (pitmonticone) [inline equational_theories/Equations/LawsComplete.lean:1]: @digama0 Could you please fix the remaining issues?

File: equational_theories/Obelix.lean
Comment (pitmonticone) [inline equational_theories/Obelix.lean:1]: @Timeroot Could you please fix the issues in this file?

File: equational_theories/ManuallyProved/Equation1692.lean
Comment (pitmonticone) [inline equational_theories/ManuallyProved/Equation1692.lean:1]: @Aaron1011 Could you please fix the remaining issues here and open a PR to this PR like Mario did?

**Comment by pitmonticone** [comment]
# Task List: Remaining Files to Fix (Alphabetical Order)

- [ ] equational_theories.Equations.LawsComplete
- [ ] equational_theories.FullSpectrum
- [ ] equational_theories.Generated.All4x4Tables.Refutation_
- [ ] equational_theories.Generated.FinSearch.theorems.Refutation_
- [ ] equational_theories.Generated.Greedy.Eq118
- [ ] equational_theories.Generated.Greedy.Eq124
- [ ] equational_theories.Generated.Greedy.Eq1648
- [ ] equational_theories.Generated.Greedy.Eq476
- [ ] equational_theories.Generated.Greedy.Eq503
- [ ] equational_theories.Generated.Greedy.Eq511
- [ ] equational_theories.Generated.Greedy.Eq677
- [ ] equational_theories.Generated.Greedy.Eq707
- [ ] equational_theories.Generated.Greedy.Eq883
- [ ] equational_theories.Generated.Greedy.Eq906
- [ ] equational_theories.Generated.Greedy.Eq1112
- [ ] equational_theories.Generated.Greedy.Eq1113
- [ ] equational_theories.InfModel
- [ ] equational_theories.ManuallyProved.Equation63
- [ ] equational_theories.ManuallyProved.Equation73
- [ ] equational_theories.ManuallyProved.Equation1076
- [ ] equational_theories.ManuallyProved.Equation1289
- [ ] equational_theories.ManuallyProved.Equation1323
- [ ] equational_theories.ManuallyProved.Equation1447
- [ ] equational_theories.ManuallyProved.Equation1516
- [ ] equational_theories.ManuallyProved.Equation1518
- [ ] equational_theories.ManuallyProved.Equation1526
- [ ] equational_theories.ManuallyProved.Equation1692
- [ ] equational_theories.ManuallyProved.Equation1722
- [ ] equational_theories.ManuallyProved.Equation1729.MagmaConstruction
- [ ] equational_theories.ManuallyProved.Equation713
- [ ] equational_theories.ManuallyProved.Equation917
- [ ] equational_theories.Obelix
- [ ] equational_theories.ThreeC2
- [ ] equational_theories.WeakCentralGroupoids

**Comment by pitmonticone** [comment]
## Task List: Remaining Files to Fix 

- [ ] `equational_theories.Counting.lean` (**Author**: @Command-Master)
- [ ] `equational_theories.ForMathlib.Definability.lean` (**Author**: @Timeroot)
- [ ] `equational_theories.Equations.LawsComplete` (**Author**: @digama0)
- [ ] `equational_theories.FullSpectrum` (**Author**: @vlad902)
- [ ] `equational_theories.Generated.All4x4Tables.Refutation_`
- [ ] `equational_theories.Generated.FinSearch.theorems.Refutation_`
- [ ] `equational_theories.Generated.Greedy.Eq118`
- [ ] `equational_theories.Generated.Greedy.Eq124`
- [ ] `equational_theories.Generated.Greedy.Eq1648`
- [ ] `equational_theories.Generated.Greedy.Eq476`
- [ ] `equational_theories.Generated.Greedy.Eq503`
- [ ] `equational_theories.Generated.Greedy.Eq511`
- [ ] `equational_theories.Generated.Greedy.Eq677`
- [ ] `equational_theories.Generated.Greedy.Eq707`
- [ ] `equational_theories.Generated.Greedy.Eq883`
- [ ] `equational_theories.Generated.Greedy.Eq906`
- [ ] `equational_theories.Generated.Greedy.Eq1112`
- [ ] `equational_theories.Generated.Greedy.Eq1113`
- [ ] `equational_theories.InfModel` (**Author**: @Command-Master)
- [ ] `equational_theories.ManuallyProved.Equation63`
- [ ] `equational_theories.ManuallyProved.Equation73`
- [ ] `equational_theories.ManuallyProved.Equation1076`
- [ ] `equational_theories.ManuallyProved.Equation1289`
- [ ] `equational_theories.ManuallyProved.Equation1323`
- [ ] `equational_theories.ManuallyProved.Equation1447`
- [ ] `equational_theories.ManuallyProved.Equation1516`
- [ ] `equational_theories.ManuallyProved.Equation1518`
- [ ] `equational_theories.ManuallyProved.Equation1526`
- [ ] `equational_theories.ManuallyProved.Equation1692` (**Author**: @Aaron1011)
- [ ] `equational_theories.ManuallyProved.Equation1722`
- [ ] `equational_theories.ManuallyProved.Equation1729.MagmaConstruction`
- [ ] `equational_theories.ManuallyProved.Equation713`
- [ ] `equational_theories.ManuallyProved.Equation917`
- [ ] `equational_theories.Obelix` (**Author**: @Timeroot)
- [ ] `equational_theories.ThreeC2` (**Author**: @nomeata)
- [ ] `equational_theories.WeakCentralGroupoids` (**Author**: @digama0)

**Comment by vlad902** [comment]
I looked at the Greedy breakages, it looks like just an import change. Will PR shortly.

**Comment by pitmonticone** [comment]
## Task List: Remaining Files to Fix 

- [ ] `equational_theories.ForMathlib.Definability.lean` (**Author**: @Timeroot)
- [ ] `equational_theories.Equations.LawsComplete` (**Author**: @digama0)
- [ ] `equational_theories.InfModel` (**Author**: @Command-Master)
- [ ] `equational_theories.ManuallyProved.Equation1076`
- [ ] `equational_theories.ManuallyProved.Equation1289`
- [ ] `equational_theories.ManuallyProved.Equation1323`
- [ ] `equational_theories.ManuallyProved.Equation1447`
- [ ] `equational_theories.ManuallyProved.Equation1516`
- [ ] `equational_theories.ManuallyProved.Equation1692` (**Author**: @Aaron1011)
- [ ] `equational_theories.ManuallyProved.Equation1722`
- [ ] `equational_theories.ManuallyProved.Equation713`
- [ ] `equational_theories.Obelix` (**Author**: @Timeroot)
- [ ] `equational_theories.WeakCentralGroupoids` (**Author**: @digama0)

**Comment by pitmonticone** [comment]
## Task List: Remaining Files to Fix 

- `equational_theories.ManuallyProved.Equation1692` (@Aaron1011)
- `equational_theories.Obelix` (@Timeroot)
- `equational_theories.Equations.LawsComplete` (@digama0)
